US08633237B2
h) (S)-N-(5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl) propane-2-sulfonamide
To (S)-methyl 3-((2-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate (0.044 mmol, 20 mg) at 0° C. in THF (1 mL) under an argon atmosphere was added Lithium aluminium hydride in THF (0.044 mmol, 0.044 mL) dropwise. The reaction was left to stir for 1.5 hrs at 0° C. The reaction was quenched with water before the addition of 5N HCl (aq) to adjust the pH to 5. The mixture was filtered through a celite cartridge before washing with EtOAc. The EtOAc layer was washed with water (×1) before drying the EtOAc over MgSO4. The solvent was removed in vacuo before purifying the crude (1:1 EtOAc/Heptane, 4 g silica cartridge) to give the title compound (7.5 mg, 40%). MS (ESI): m/z [M+Na]+ 450.0

reactant | (S)-methyl 3-((2-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate | 0.044 mmol, 20 mg | CC(C)S(=O)(=O)N[C@H]1CC2=CC=C(C=C2C1)CC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C22H24F3NO4S
reactant | Lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.044 mmol, 0.044 mL | C1CCOC1 | C4H8O
product | (S)-N-(5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl) propane-2-sulfonamide | 7.5 mg, 40% | OCC=1C=C(CC=2C=C3C[C@H](CC3=CC2)NS(=O)(=O)C(C)C)C=C(C1)C(F)(F)F | C21H24F3NO3S
